US06841553B2
(a). Ethyl 5-amino-2-methylthio-4-(3-nitrophenyl)-thieno[2,3-d]-pyrimidine-6-carboxylate
Cyclization of S-methylisothiourea sulfate (700 mg), 3-nitrobenzaldehyde (750 mg) and ethyl cyanoacetate (560 μl), treatment of the product with POCl3 and subsequent reaction with ethyl 2-mercaptoacetate were performed according to the methods described in example 1. The pure title compound was obtained after chromatography on silicagel in heptane/EtOAc=3/2 (v/v) as eluent.

reactant | S-methylisothiourea sulfate | 700 mg | S(=O)(=O)(O)O.CSC(N)=N
reactant | 3-nitrobenzaldehyde | 750 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl cyanoacetate | 560 μl | C(#N)CC(=O)OCC | C5H7NO2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 2-mercaptoacetate | SCC(=O)OCC | C4H8O2S
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | Ethyl 5-amino-2-methylthio-4-(3-nitrophenyl)-thieno[2,3-d]-pyrimidine-6-carboxylate | NC1=C(SC=2N=C(N=C(C21)C2=CC(=CC=C2)[N+](=O)[O-])SC)C(=O)OCC | C16H14N4O4S2
